US09382234B2
A 250 mL Erlenmeyer flask was charged with 2,6-dimethyl-4-oxo-1,4-dihydropyridine-3-carbonitrile (360 mg, 2.430 mmol) and cold 2 M ammonia in EtOH (39.5 mL, 79 mmol). Ethanol (40 mL) was added to solubilize the remaining reactant. The solution was passed through a Raney Ni cartridge on a continuous flow hydrogenation reactor (40 psi, 40° C., 1 mL/min) for 16 h. The reaction solvent was removed in vacuo and the residue was dissolved in EtOH (1 mL) and CHCl3 (15 mL), then concentrated in vacuo. The residue was dissolved and concentrated in CHCl3 (2×15 mL) and DCM (15 mL). The sticky residue was suspended in diethyl ether (30 mL) and treated with 4 M HCl in 1,4-dioxanes (10.63 mL, 42.5 mmol). The suspension was stirred at room temperature overnight, at which time the white solid was collected via vacuum filtration, washed with diethyl ether (10 mL), and dried under high vacuum to give 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride (200 mg, 0.975 mmol, 80% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 6.26 (br. s., 1H), 3.90 (br. s., 2H), 2.64 (s, 1H), 2.38 (s, 3H), 2.32 (s, 3H), 1.22-1.30 (m, 2H). MS(ES) [M+H]+ 152.9.

reactant | 2,6-dimethyl-4-oxo-1,4-dihydropyridine-3-carbonitrile | 2.430 mmol, 360 mg | CC=1NC(=CC(C1C#N)=O)C | C8H8N2O
reactant | ammonia | 2 M | N | H3N
reactant | HCl | 4 M | Cl | ClH
catalyst | Ni | [Ni] | Ni
solvent | Ethanol | 40 mL | C(C)O | C2H6O
solvent | EtOH | 79 mmol, 39.5 mL | CCO | C2H6O
product | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride | 0.975 mmol, 200 mg, 80% yield | Cl.NCC1=C(NC(=CC1=O)C)C | InChI=1S/C8H12N2O.ClH/c1-5-3-8(11)7(4-9)6(2)10-5;/h3H,4,9H2,1-2H3,(H,10,11);1H
